US06228870B1
To a solution of 2-(1-tertbutoxycarbonylpiperidin-4-yl)benzonitrile (1.7 g, 5.9 mmol) in ethyl acetate (˜50 ml), cooled to 0° C. was added hydrogen chloride gas, bubbled vigorously for 5 minutes. The reaction mixture was stirred for 10 minutes at 0+ C., purged with argon and concentrated. Flushing with ethyl acetate×3 and concentration gave 2-(piperidin-4-yl)benzonitrile hydrochloride;

reactant | 2-(1-tertbutoxycarbonylpiperidin-4-yl)benzonitrile | 5.9 mmol, 1.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C#N)C=CC=C1 | C17H22N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | ˜50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(piperidin-4-yl)benzonitrile hydrochloride | Cl.N1CCC(CC1)C1=C(C#N)C=CC=C1 | InChI=1S/C12H14N2.ClH/c13-9-11-3-1-2-4-12(11)10-5-7-14-8-6-10;/h1-4,10,14H,5-8H2;1H
